* File: ha.pex.netlist.pex
* Created: Mon May 27 13:36:00 2024
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HA%A 17 22 25 28 31 35 67
c0 74 0 0.146752f
c1 67 0 0.144194f
c2 63 0 0.178342f
c3 62 0 0.0376074f
c4 54 0 0.110705f
c5 47 0 0.0777537f
c6 45 0 0.211105f
c7 42 0 0.131549f
c8 38 0 0.0927147f
c9 35 0 0.133074f
c10 31 0 0.204225f
c11 25 0 0.501571f
c12 22 0 0.125753f
c13 17 0 0.189441f
c14 14 0 0.371578f
c15 11 0 0.0786244f
c16 10 0 0.0176804f
c17 9 0 1.46511f
c18 8 0 0.329026f
c19 3 0 0.0345157f
c20 2 0 0.114792f
r21 65 67 0.103363
r22 62 63 8
r23 58 59 8
r24 55 74 0.0483682
r25 54 55 13.2552
r26 51 54 6.2234
r27 48 63 0.0599783
r28 47 49 8.07022
r29 47 48 13.2552
r30 45 59 0.0675966
r31 44 45 13.2552
r32 42 44 7.58193
r33 38 41 8.32303
r34 38 40 8.32303
r35 38 67 13.2552
r36 33 51 4.73303
r37 33 35 35.5
r38 29 51 4.73303
r39 29 31 62.25
r40 28 49 35
r41 25 28 144.25
r42 22 41 50.5
r43 20 42 4.79082
r44 20 22 35
r45 17 40 70.25
r46 13 14 0.818696
r47 11 13 0.0395163
r48 11 74 0.0827273
r49 9 14 0.039111
r50 9 10 3.19109
r51 8 10 0.0391169
r52 7 65 0.0260684
r53 7 8 0.857872
r54 3 58 0.03237
r55 2 62 0.0325
r56 2 3 0.216888
.ends

.subckt PM_HA%S 4 18 19 23 24
c0 27 0 0.165169f
c1 22 0 0.313541f
c2 14 0 0.0973637f
c3 13 0 0.0326443f
c4 9 0 0.178731f
c5 8 0 0.0430574f
c6 7 0 0.0603785f
c7 4 0 0.179498f
c8 2 0 0.0524306f
r9 26 27 16.3327
r10 24 26 4.59
r11 23 26 4.59
r12 21 22 8.16635
r13 19 21 2.295
r14 18 21 2.295
r15 16 17 8
r16 14 16 0.0203125
r17 12 22 0.455
r18 12 13 0.00770322
r19 11 27 0.282739
r20 10 13 0.0296412
r21 9 14 0.0266461
r22 9 10 0.328696
r23 8 11 0.039111
r24 7 13 0.0296412
r25 7 8 0.14
r26 2 17 0.0325
r27 2 4 0.226837
.ends

.subckt PM_HA%B 10 20 23 29 32 36 40
c0 79 0 0.0708578f
c1 70 0 0.126175f
c2 69 0 0.183317f
c3 68 0 0.0407445f
c4 61 0 0.104092f
c5 59 0 0.109242f
c6 54 0 0.0950612f
c7 48 0 0.117944f
c8 45 0 0.0334116f
c9 44 0 0.232202f
c10 43 0 0.0831994f
c11 40 0 0.1506f
c12 36 0 0.158574f
c13 32 0 0.110482f
c14 29 0 0.259521f
c15 25 0 0.0199138f
c16 21 0 0.119855f
c17 20 0 0.139712f
c18 16 0 0.0212929f
c19 15 0 0.0572247f
c20 14 0 0.0205333f
c21 13 0 0.0559402f
c22 12 0 0.180762f
c23 8 0 0.114368f
c24 3 0 0.0349259f
r25 68 70 0.0325
r26 68 69 8
r27 64 65 8
r28 59 79 0.0531785
r29 58 61 6.2234
r30 58 59 13.2552
r31 54 55 13.2552
r32 51 54 5.55319
r33 49 69 0.0668455
r34 48 49 13.2552
r35 44 65 0.0584582
r36 43 45 8.07022
r37 43 44 13.2552
r38 38 61 4.73303
r39 38 40 46.25
r40 34 61 4.73303
r41 34 36 51.5
r42 30 51 4.73303
r43 30 32 40.75
r44 27 51 4.73303
r45 27 29 80
r46 26 48 12.4006
r47 26 29 46.5
r48 25 45 14.5
r49 21 23 30
r50 18 20 19.75
r51 17 25 5.02856
r52 17 20 46.75
r53 15 21 5.02856
r54 15 16 15.75
r55 13 18 5.02856
r56 13 14 15.75
r57 12 16 5.02856
r58 11 14 5.02856
r59 11 12 76.5
r60 10 79 0.0672
r61 8 55 0.0531785
r62 8 10 0.1806
r63 3 64 0.0325
r64 3 70 0.218214
.ends

.subckt PM_HA%VDD 8 9 14 19 24 29 34 39 110
c0 132 0 0.0920797f
c1 129 0 0.0670742f
c2 128 0 0.10556f
c3 125 0 0.14127f
c4 115 0 0.0649342f
c5 112 0 0.0631106f
c6 107 0 0.185306f
c7 103 0 0.353695f
c8 100 0 0.267937f
c9 98 0 0.146245f
c10 96 0 0.032711f
c11 70 0 0.0293905f
c12 64 0 0.0396561f
c13 53 0 0.0397118f
c14 42 0 0.192806f
c15 37 0 0.214982f
c16 32 0 0.111882f
c17 27 0 0.135647f
c18 22 0 0.199871f
c19 17 0 0.214296f
c20 12 0 0.275754f
c21 3 0 0.0246184f
r22 132 133 0.0264298
r23 123 125 0.0549446
r24 123 124 0.0307202
r25 108 110 0.0867391
r26 97 132 0.0799167
r27 96 98 0.0325
r28 96 97 8
r29 93 128 0.0293066
r30 92 93 8
r31 86 132 0.000583333
r32 85 86 8.16635
r33 82 129 0.0247217
r34 82 112 0.0167921
r35 81 82 16.3327
r36 78 112 0.07875
r37 78 128 0.0189583
r38 74 93 0.0344853
r39 74 123 0.00102941
r40 73 74 16.3327
r41 70 121 0.00682649
r42 70 107 0.0307054
r43 69 70 16.3327
r44 67 107 0.273913
r45 67 110 0.161304
r46 66 69 18.383
r47 66 67 5.44423
r48 64 119 0.000760966
r49 64 103 0.0391126
r50 64 108 0.0391126
r51 63 66 18.383
r52 63 64 16.3327
r53 61 103 0.237391
r54 60 63 18.383
r55 60 61 8.16635
r56 56 61 0.292174
r57 56 104 0.217609
r58 55 56 5.44423
r59 53 117 0.000760966
r60 53 100 0.0391126
r61 53 104 0.0391126
r62 52 55 18.3638
r63 52 53 16.3327
r64 50 100 0.267522
r65 50 101 0.257478
r66 49 52 18.383
r67 49 50 5.44423
r68 46 115 0.0195555
r69 46 101 0.0195555
r70 45 49 18.383
r71 45 46 16.3327
r72 42 133 0.259677
r73 41 42 8.16635
r74 39 41 2.295
r75 37 129 0.270968
r76 36 37 8.16635
r77 34 36 2.295
r78 32 124 0.270968
r79 31 32 8.16635
r80 29 31 2.295
r81 27 121 0.48125
r82 26 27 8.16635
r83 24 26 2.295
r84 22 119 0.355385
r85 21 22 8.16635
r86 19 21 2.295
r87 17 117 0.355385
r88 16 17 8.16635
r89 14 16 2.286
r90 12 115 0.502174
r91 11 12 8.16635
r92 9 11 2.286
r93 8 85 6.60638
r94 8 81 13.2128
r95 8 73 13.2128
r96 8 78 16.3327
r97 8 60 9.19149
r98 8 55 9.19149
r99 7 70 0.0307054
r100 7 125 0.296739
r101 3 92 0.0325
r102 3 98 0.348214
.ends

.subckt PM_HA%noxref_5 2 3
c0 5 0 0.177275f
r1 3 5 2.295
r2 2 5 2.295
.ends

.subckt PM_HA%A2 7 12 19 23
c0 27 0 0.139268f
c1 26 0 0.105046f
c2 23 0 0.196894f
c3 19 0 0.245956f
c4 15 0 0.170496f
c5 10 0 0.187113f
c6 6 0 0.0351106f
c7 2 0 0.153779f
r8 26 29 8.32303
r9 26 28 8.32303
r10 26 27 13.2552
r11 23 29 50.5
r12 19 28 70.25
r13 14 15 16.3327
r14 12 14 4.608
r15 9 10 8.16635
r16 7 9 2.304
r17 5 10 0.27087
r18 5 6 0.0296412
r19 4 15 0.46687
r20 4 6 0.0296412
r21 3 6 0.00770322
r22 2 27 0.0562684
r23 2 3 0.526522
.ends

.subckt PM_HA%noxref_7 2 3
c0 5 0 0.160197f
r1 3 5 2.295
r2 2 5 2.295
.ends

.subckt PM_HA%noxref_8 10 15 16 20
c0 23 0 0.0661345f
c1 19 0 0.109478f
c2 13 0 0.0634568f
c3 5 0 0.0524769f
c4 4 0 0.244289f
c5 3 0 0.0242484f
c6 2 0 0.215286f
r7 22 23 16.3327
r8 20 22 4.59
r9 18 19 16.3327
r10 16 18 4.59
r11 15 18 4.59
r12 12 13 16.3327
r13 10 12 4.572
r14 9 23 0.139696
r15 8 19 0.139696
r16 7 19 0.134217
r17 6 13 0.134217
r18 5 8 0.039111
r19 4 9 0.039111
r20 4 5 0.35
r21 3 6 0.039111
r22 2 7 0.039111
r23 2 3 0.35
.ends

.subckt PM_HA%B2 7 12 19 23
c0 36 0 0.10206f
c1 26 0 0.0783042f
c2 23 0 0.130416f
c3 19 0 0.260282f
c4 15 0 0.256427f
c5 10 0 0.139772f
c6 6 0 0.043771f
c7 2 0 0.108374f
r8 27 36 0.0454528
r9 26 29 8.0852
r10 26 28 8.0852
r11 26 27 13.2552
r12 23 29 35.25
r13 19 28 85.5
r14 14 15 16.3327
r15 12 14 4.59
r16 9 10 8.16635
r17 7 9 2.295
r18 5 10 0.117385
r19 5 6 0.0277169
r20 4 15 0.389631
r21 4 6 0.0277169
r22 2 6 0.00936577
r23 2 36 0.254333
.ends

.subckt PM_HA%AS 2 3
c0 5 0 0.150667f
r1 3 5 4.59
r2 2 5 4.59
.ends

.subckt PM_HA%F 10 11 15 22 26
c0 32 0 0.099565f
c1 30 0 0.117537f
c2 26 0 0.176005f
c3 22 0 0.100823f
c4 18 0 0.0969544f
c5 14 0 0.292051f
c6 9 0 0.0431773f
c7 6 0 0.107004f
c8 5 0 0.0447724f
c9 3 0 0.0333969f
c10 2 0 0.0545899f
r11 29 32 5.93617
r12 29 30 13.2552
r13 24 32 4.73303
r14 24 26 66
r15 20 32 4.73303
r16 20 22 31
r17 18 36 0.0416789
r18 17 18 16.3327
r19 15 17 4.59
r20 13 14 8.16635
r21 11 13 2.295
r22 10 13 2.295
r23 8 14 0.362174
r24 7 9 0.0353134
r25 6 30 0.0531785
r26 6 7 0.2786
r27 5 9 0.00333176
r28 5 36 0.117419
r29 3 8 0.0391994
r30 2 9 0.0353134
r31 2 3 0.1232
.ends

.subckt PM_HA%GND 19 21 62 67 68 72 77 82
c0 115 0 0.0346023f
c1 106 0 0.0417568f
c2 98 0 0.0304773f
c3 94 0 8.6005e-20
c4 85 0 0.102811f
c5 80 0 0.104794f
c6 75 0 0.138097f
c7 71 0 0.268937f
c8 65 0 0.139212f
c9 20 0 0.0138559f
c10 17 0 0.111254f
c11 14 0 0.124968f
c12 11 0 0.065257f
c13 6 0 0.140876f
c14 5 0 0.0820579f
c15 2 0 0.15334f
r16 114 115 0.104222
r17 85 98 0.04199
r18 84 85 16.3327
r19 82 84 4.59
r20 80 94 0.102822
r21 79 80 16.3327
r22 77 79 4.59
r23 74 75 16.3327
r24 72 74 4.59
r25 70 71 16.3327
r26 68 70 4.59
r27 67 70 4.59
r28 65 87 0.496391
r29 64 65 16.3327
r30 62 64 4.572
r31 57 114 0.00233333
r32 56 57 8.16635
r33 53 106 0.0174576
r34 52 53 16.3327
r35 49 106 0.0832222
r36 49 107 0.0723333
r37 45 94 0.0195555
r38 45 107 0.0195555
r39 44 45 16.3327
r40 40 41 5.44423
r41 38 41 0.438261
r42 37 40 27.5745
r43 37 38 5.44423
r44 31 34 0.29187
r45 30 31 5.44423
r46 28 31 0.438261
r47 28 100 0.257478
r48 27 30 27.5745
r49 27 28 5.44423
r50 24 87 0.0195555
r51 24 100 0.0195555
r52 23 27 18.383
r53 23 24 16.3327
r54 21 56 6.60638
r55 21 52 13.2128
r56 21 44 13.2128
r57 21 49 16.3327
r58 21 37 27.5745
r59 21 30 18.3638
r60 21 34 8.16635
r61 17 41 0.129348
r62 17 19 0.0296412
r63 16 75 0.496391
r64 16 19 0.00770322
r65 14 34 0.164348
r66 14 15 0.0435722
r67 13 38 0.159783
r68 13 15 0.0435722
r69 12 71 0.304453
r70 12 15 0.00196586
r71 11 115 0.013661
r72 10 11 0.206912
r73 8 114 0.0167512
r74 8 98 0.0982258
r75 7 20 0.0404857
r76 6 10 0.0410358
r77 6 7 0.523478
r78 5 53 0.0226478
r79 4 20 0.000109589
r80 4 5 0.203824
r81 3 19 0.0296412
r82 2 20 0.0404857
r83 2 3 0.739565
.ends

.subckt PM_HA%C 2 7 17
c0 17 0 0.29026f
c1 10 0 0.084821f
r2 15 17 0.165968
r3 10 15 0.0416789
r4 9 10 16.3327
r5 7 9 4.59
r6 5 17 0.273226
r7 4 5 8.16635
r8 2 4 2.295
.ends

