* File: nand.pex.netlist.pex
* Created: Wed May 15 20:56:04 2024
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND%A 8 12 22
c0 22 0 0.0626798f
c1 20 0 0.0775677f
c2 19 0 0.156188f
c3 16 0 0.195601f
c4 14 0 0.0673581f
c5 8 0 0.121932f
c6 5 0 0.0193591f
r7 19 20 3.64286
r8 14 17 0.0957447
r9 14 16 8.07022
r10 14 22 13.2552
r11 12 20 18.25
r12 6 17 4.73303
r13 6 8 51.25
r14 5 19 76
r15 2 5 5.02856
r16 2 16 90.75
.ends

.subckt PM_NAND%WIRE 6 11
c0 14 0 0.143909f
c1 5 0 0.0469148f
c2 4 0 0.0951938f
c3 3 0 0.0429518f
r4 13 14 16.3327
r5 11 13 4.59
r6 8 9 16.3327
r7 6 8 4.572
r8 5 14 0.243478
r9 4 9 0.13513
r10 3 5 0.039111
r11 2 4 0.039111
r12 2 3 0.14
.ends

.subckt PM_NAND%GND 5 16 27
c0 23 0 0.0217852f
c1 19 0 0.0375503f
c2 4 0 0.0485568f
c3 3 0 0.0318378f
c4 2 0 8.91047e-20
r5 23 27 0.0195555
r6 18 19 16.3327
r7 16 18 4.572
r8 13 27 16.3327
r9 8 23 0.110783
r10 7 8 16.3327
r11 5 13 4.59574
r12 5 7 4.5766
r13 4 19 0.100435
r14 3 4 0.039111
r15 2 27 0.0195555
r16 2 3 0.164348
.ends

.subckt PM_NAND%VDD 5 6 7 12
c0 43 0 0.0923231f
c1 29 0 0.024993f
c2 19 0 0.0249344f
c3 15 0 0.0922154f
c4 2 0 0.0599081f
r5 35 40 0.00770322
r6 35 45 0.0296412
r7 34 35 16.3327
r8 29 40 0.111087
r9 28 29 16.3327
r10 25 37 0.00770322
r11 25 43 0.0296412
r12 24 25 16.3327
r13 19 37 0.111087
r14 18 19 16.3327
r15 15 45 0.206957
r16 14 15 8.16635
r17 12 14 2.295
r18 10 43 0.352739
r19 9 10 8.16635
r20 7 9 2.295
r21 6 34 4.59574
r22 6 28 4.59574
r23 6 24 4.59574
r24 6 18 4.59574
r25 3 25 0.0296412
r26 3 5 0.144565
r27 2 35 0.0296412
r28 2 5 0.126304
.ends

.subckt PM_NAND%VOUT 13 14 19 24
c0 27 0 0.0617f
c1 11 0 0.0123288f
c2 9 0 0.113284f
c3 8 0 0.029426f
c4 6 0 0.234569f
c5 5 0 0.0294322f
c6 4 0 0.0335086f
c7 3 0 0.113259f
r8 26 27 16.3327
r9 24 26 4.59
r10 21 22 8.16635
r11 19 21 2.295
r12 16 17 8.16635
r13 14 16 2.295
r14 10 27 0.136957
r15 10 11 0.00770322
r16 9 22 0.0745652
r17 8 13 0.0146538
r18 8 9 0.0882
r19 7 11 0.0296412
r20 6 13 0.031856
r21 6 7 0.616304
r22 4 11 0.0296412
r23 4 5 0.135435
r24 3 17 0.0712174
r25 2 5 0.0465098
r26 2 3 0.0882
.ends

.subckt PM_NAND%B 4 7 22
c0 22 0 0.0626732f
c1 18 0 0.195568f
c2 16 0 0.0673446f
c3 14 0 0.0106071f
c4 13 0 0.0689633f
c5 9 0 0.189547f
c6 5 0 0.121929f
r7 16 19 0.0957447
r8 16 18 8.07022
r9 16 22 13.2552
r10 13 14 3.21429
r11 11 18 90.75
r12 9 11 5.02856
r13 9 14 82.75
r14 5 19 4.73303
r15 5 7 51.25
r16 4 13 18.75
.ends

