* File: nor.pex.netlist.pex
* Created: Wed May 15 21:44:39 2024
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR%C 6 10 20
c0 20 0 0.0633843f
c1 15 0 0.191993f
c2 13 0 0.0673764f
c3 10 0 0.122829f
c4 6 0 0.231595f
c5 4 0 0.0193591f
r6 13 16 0.0957447
r7 13 15 8.07022
r8 13 20 13.2552
r9 8 16 4.73303
r10 8 10 51.25
r11 4 6 100
r12 2 4 5.02856
r13 2 15 89.25
.ends

.subckt PM_NOR%VDD 2 3 31
c0 30 0 0.0929809f
c1 25 0 0.0524895f
c2 20 0 0.169263f
r3 30 31 0.0586031
r4 25 31 0.0185294
r5 20 25 0.0737059
r6 19 20 8.16635
r7 15 31 16.3327
r8 9 31 16.3327
r9 6 30 0.32687
r10 5 6 8.16635
r11 3 5 2.295
r12 2 19 4.59574
r13 2 15 4.59574
r14 2 9 4.59574
.ends

.subckt PM_NOR%GND 4 12 17 29
c0 29 0 0.0520532f
c1 22 0 0.0585012f
c2 20 0 0.0597073f
r3 25 29 0.0296412
r4 22 29 0.0296412
r5 20 25 0.206957
r6 19 20 16.3327
r7 17 19 4.572
r8 15 22 0.20087
r9 14 15 16.3327
r10 12 14 4.572
r11 6 29 8.16635
r12 4 6 4.59574
.ends

.subckt PM_NOR%WIRE 8 15
c0 22 0 0.0388239f
c1 21 0 0.0844296f
c2 7 0 0.0528723f
c3 5 0 0.0176332f
c4 4 0 0.442214f
c5 3 0 0.0456466f
r6 21 25 0.111087
r7 18 25 0.0195555
r8 17 21 16.3327
r9 17 18 16.3327
r10 15 17 2.295
r11 14 22 0.0195555
r12 11 22 0.110783
r13 10 14 16.3327
r14 10 11 16.3327
r15 8 10 2.295
r16 7 18 0.0195555
r17 6 7 0.0730435
r18 4 6 0.039111
r19 4 5 0.754783
r20 3 14 0.0195555
r21 2 5 0.039111
r22 2 3 0.0730435
.ends

.subckt PM_NOR%F 7 14 19 24
c0 27 0 0.0415415f
c1 22 0 0.0443099f
c2 13 0 0.110521f
c3 12 0 0.0288145f
c4 9 0 0.180857f
c5 4 0 0.170609f
c6 3 0 0.0370109f
c7 2 0 0.221888f
r8 26 27 16.3327
r9 24 26 4.59
r10 21 22 16.3327
r11 19 21 4.59
r12 16 17 8.16635
r13 14 16 2.295
r14 13 17 0.278478
r15 11 27 0.112609
r16 11 12 0.00770322
r17 10 22 0.112609
r18 9 13 0.039111
r19 8 9 0.426087
r20 5 12 0.0296412
r21 5 7 0.287609
r22 4 8 0.039111
r23 4 7 0.121739
r24 3 10 0.039111
r25 2 12 0.0296412
r26 2 3 0.407826
.ends

.subckt PM_NOR%D 4 8 19
c0 15 0 0.197417f
c1 14 0 0.0998227f
c2 13 0 0.0694824f
c3 6 0 0.146062f
c4 2 0 0.262077f
r5 14 19 0.0192857
r6 13 16 0.0957447
r7 13 15 8.07022
r8 13 14 13.2552
r9 10 15 89.25
r10 6 16 4.73303
r11 6 8 58
r12 2 10 5.02856
r13 2 4 103.5
.ends

